US05464781
3-Hydroxy-2-methylpyridine (50 g) was added to a solution of sodium (11.6 g) in propan-1-ol (250 ml) and the mixture treated with 1-bromopropane (51 ml) in propan-1-ol (50 ml) to give 2-methyl-3-propoxypyridine, b.p. 96°-104° C. (30 mmHg).

reactant | 3-Hydroxy-2-methylpyridine | 50 g | OC=1C(=NC=CC1)C | C6H7NO
reactant | sodium | 11.6 g | [Na] | Na
reactant | 1-bromopropane | 51 ml | BrCCC | C3H7Br
solvent | propan-1-ol | 250 ml | C(CC)O | C3H8O
solvent | propan-1-ol | 50 ml | C(CC)O | C3H8O
product | 2-methyl-3-propoxypyridine | CC1=NC=CC=C1OCCC | C9H13NO
